US06924278B2
A solution of (2R)-1-[3,5-bis(trifluoromethyl)benzoyl]-4-[(2E)-3-[(3R)-4-(tert-butoxycarbonyl)morpholin-3-yl]-2-propenyl]-2-(3,4-dimethylbenzyl)piperazine (1.36 g) in ethyl acetate (13 ml) was treated 4N hydrogen chloride in ethyl acetate (3.12 ml) at room temperature for 18 hours and then at 40° C. for 5 hours. The solution was diluted with hexane and stirred for 1 hour. The resulting precipitate was collected by filtration and dried under reduced pressure to give (2R)-1-[3,5-bis(trifluoromethyl)benzoyl]-2-(3,4-dimethylbenzyl)-4-[(2E)-3-[(3R)-3-morpholinyl]-2-propenyl]piperazine dihydrochloride (1.11 g) as a white powder.

reactant | (2R)-1-[3,5-bis(trifluoromethyl)benzoyl]-4-[(2E)-3-[(3R)-4-(tert-butoxycarbonyl)morpholin-3-yl]-2-propenyl]-2-(3,4-dimethylbenzyl)piperazine | 1.36 g | FC(C=1C=C(C(=O)N2[C@@H](CN(CC2)C\C=C\[C@H]2N(CCOC2)C(=O)OC(C)(C)C)CC2=CC(=C(C=C2)C)C)C=C(C1)C(F)(F)F)(F)F | C34H41F6N3O4
reactant | hydrogen chloride | 4N | Cl | ClH
solvent | ethyl acetate | 13 ml | C(C)(=O)OCC | C4H8O2
solvent | ethyl acetate | 3.12 ml | C(C)(=O)OCC | C4H8O2
solvent | hexane | CCCCCC | C6H14
product | (2R)-1-[3,5-bis(trifluoromethyl)benzoyl]-2-(3,4-dimethylbenzyl)-4-[(2E)-3-[(3R)-3-morpholinyl]-2-propenyl]piperazine dihydrochloride | 1.11 g | Cl.Cl.FC(C=1C=C(C(=O)N2[C@@H](CN(CC2)C\C=C\[C@H]2NCCOC2)CC2=CC(=C(C=C2)C)C)C=C(C1)C(F)(F)F)(F)F | InChI=1S/C29H33F6N3O2.2ClH/c1-19-5-6-21(12-20(19)2)13-26-17-37(8-3-4-25-18-40-11-7-36-25)9-10-38(26)27(39)22-14-23(28(30,31)32)16-24(15-22)29(33,34)35;;/h3-6,12,14-16,25-26,36H,7-11,13,17-18H2,1-2H3;2*1H/b4-3+;;/t25-,26-;;/m1../s1
